US07087750B2
N-tert-Butyldimethylsilyl-4-(4-Boc-piperazinyl)-indole (Scheme 1)
The compound was prepared according to Method 2 from N-tert-butyldimethylsilyl -4-chloroindole (100 g, 376 mmol, 1 equiv.), tert-butyl 1-piperazinecarboxylate (84 g, 451 mmol), Palladium(II) acetate (1.26 g., 5.62 mmol, 2%), 2-(dicyclohexylphosphino)-biphenyl (3.95 g., 11.28 mmol, 4 mol %), tert-BuONa (50 g, 520 mmol, 1.4 equiv.) in toluene. The solution was cooled to room temperature and KH2PO4 (150 mL, 13% aqueous solution) was added and pH was adjusted (pH=8–9) followed by extraction with toluene (2×100 mL), dried (MgSO4) and evaporated. The residue was crystallized from heptane to yield 124.4 g (79.6%). 1H NMR (CDCl3) δ 7.20 (d, J=8.4 Hz, 1 H), 7.13 (d, J=3.2 Hz, 1 H), 7.06 (t, 1 H), 6.60–6.57 (m, 2 H), 3.65 (t, 4 H), 3.16 (t, 4 H), 1.48 (s, 9 H), 0.91 (s, 9 H), 0.58 (s, 6 H); 13C NMR (CDCl3) δ 155.0; 145.5; 142.2; 129.9; 124.9; 122.0; 109.3; 107.2; 102.9; 79.8; 77.3; 51.5; 28.5; 26.4; 19.5; −3.8; MS (ESI) 416.4 (M+H).

reactant | N-tert-butyldimethylsilyl -4-chloroindole | 376 mmol, 100 g, 1 equiv. | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C=CC=C12)Cl | C14H20ClNSi
reactant | tert-butyl 1-piperazinecarboxylate | 451 mmol, 84 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-(dicyclohexylphosphino)-biphenyl | 11.28 mmol, 3.95 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | tert-BuONa | 520 mmol, 50 g, 1.4 equiv. | C(C)(C)(C)O[Na]
reactant | KH2PO4 | 150 mL | OP(=O)(O)[O-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium(II) acetate | 5.62 mmol, 1.26 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-tert-Butyldimethylsilyl-4-(4-Boc-piperazinyl)-indole | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C | C23H37N3O2Si
